US08283353B2
N-[(2R,6S)-2,6-dimethyltetrahydro-2H-pyran-4-yl]-1H-1,2,4-triazol-5-amine
To a solution of 1H-1,2,4-triazol-5-amine (1.6 g) in acetic acid (30 mL) was added (2R,6S)-2,6-dimethyltetrahydro-4H-pyran-4-one (2.5 g) at room temperature, and the mixture was stirred for 30 min. After stirring, sodium triacetoxyborohydride (5.2 g) was added, and the mixture was stirred at room temperature for 20 hr. Acetic acid was evaporated and ethyl acetate and water were added to the residue. The mixture was neutralized with sodium hydrogen carbonate, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in a small amount of ethyl acetate, and the mixture was crystallized from diisopropyl ether. The resulting solid was collected by filtration, washed with diisopropyl ether, and dried by heating under reduced pressure to give the title compound as a pale-yellow solid (1.6 g, 49%).

reactant | 1H-1,2,4-triazol-5-amine | 1.6 g | N1N=CN=C1N | C2H4N4
reactant | (2R,6S)-2,6-dimethyltetrahydro-4H-pyran-4-one | 2.5 g | C[C@H]1O[C@H](CC(C1)=O)C | C7H12O2
reactant | sodium triacetoxyborohydride | 5.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | N-[(2R,6S)-2,6-dimethyltetrahydro-2H-pyran-4-yl]-1H-1,2,4-triazol-5-amine | 1.6 g, 49% | C[C@H]1O[C@H](CC(C1)NC1=NC=NN1)C | C9H16N4O
